US07459448B2
9-Chloro-2-(3-hydroxymethyl-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]-azepine-6-one (I-79)
In a manner similar to method I, 8-chloro-4-((dimethylamino)methylene)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and 1-(3-(hydroxymethyl)phenyl)-guanidine were converted to I-79 (51%): HRMS Calcd. for C19H15ClN4O2: 367.0961, Found 367.0973.

reactant | 8-chloro-4-((dimethylamino)methylene)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | 1-(3-(hydroxymethyl)phenyl)-guanidine | OCC=1C=C(C=CC1)NC(=N)N | C8H11N3O
product | 9-Chloro-2-(3-hydroxymethyl-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]-azepine-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=CC=C3)CO)=O)C1 | C19H15ClN4O2
